US09119868B2
A mixture of 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-[(methylsulfonyl)amino]-1-benzofuran-3-carboxamide (500 mg, 1.24 mmol), 3-bromophenylboronic acid (1.5 g, 7.46 mmol), copper(II) acetate monohydrate (372 mg, 1.87 mmol), triethylamine (252 mg, 2.49 mmol), 4 Å molecular sieves (1 g) in dichloromethane (160 mL) was stirred for 2 days. The solid was filtered off, the filtrate was concentrated to dryness and purified by column chromatography to afford 6-(N-(3-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (270 mg, 0.48 mmol, 39% yield) as a brown solid. LCMS (m/z, ES+)=557, 559 (M+H+).

reactant | 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-[(methylsulfonyl)amino]-1-benzofuran-3-carboxamide | 1.24 mmol, 500 mg | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)NS(=O)(=O)C | C20H19FN2O4S
reactant | 3-bromophenylboronic acid | 7.46 mmol, 1.5 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
reactant | triethylamine | 2.49 mmol, 252 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
catalyst | copper(II) acetate monohydrate | 1.87 mmol, 372 mg | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 6-(N-(3-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.48 mmol, 270 mg, 39% yield | BrC=1C=C(C=CC1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C26H22BrFN2O4S
